US06475807B1
N-Fmoc-L-alanine
1 g of each isotope labeled alanine (11.2 mmol) were dissolved in 15 mL of purified water and 1.2 g of sodium carbonate (see Figure GP2). 15 mL of 1,4-Dioxane was added slowly to each and stirred. Over the period of two and a half hours, 3.8 g of Fmoc-OSu (9-Fluorenylmethyl-N-hydroxysuccinimide) was added to each (see Figure GP3 for scheme). Additional saturated sodium carbonate in water was added to maintain a pH=10. Solutions were allowed to stir overnight. 6M HCl was slowly added to the solution until the pH was approximately 2. Extraction of the compound was completed using two times 150 mL of ethyl acetate, washing four times with 300 mL of acidified/purified water. Magnesium sulfate was added to remove any excess water. Samples were filtered and concentrated using a RotoVap until the final volume was approximately one-third the original volume. Crystallization was completed using Hexane. Hexane was decanted and compound allowed to dry.

reactant | alanine | 11.2 mmol | N[C@@H](C)C(=O)O | C3H7NO2
reactant | 1,4-Dioxane | 15 mL | O1CCOCC1 | C4H8O2
reactant | Fmoc-OSu | 3.8 g | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)ON1C(=O)CCC1=O | C19H15NO5
reactant | HCl | 6M | Cl | ClH
solvent | water | 15 mL | O | H2O
solvent | sodium carbonate | 1.2 g | C([O-])([O-])=O.[Na+].[Na+]
product | N-Fmoc-L-alanine | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N[C@@H](C)C(=O)O | C18H17NO4
